US09290451B2
f) 6-(3-Chloro-phenyl)-5-cyclopentyl-pyridine-2-carboxylic acid [1-methyl-1-(5-methyl-[1,2,4]oxadiazol-3-yl)-ethyl]-amide
The title compound was synthesized in analogy to Example 1, using 6-(3-chloro-phenyl)-5-cyclopentyl-pyridine-2-carboxylic acid and α,α,5-trimethyl-1,2,4-oxadiazole-3-methanamine (CAN 1153831-97-0) as starting materials, MS (EI): m/e=425.2 [M+H]+.

reactant | 6-(3-chloro-phenyl)-5-cyclopentyl-pyridine-2-carboxylic acid | ClC=1C=C(C=CC1)C1=C(C=CC(=N1)C(=O)O)C1CCCC1 | C17H16ClNO2
reactant | α,α,5-trimethyl-1,2,4-oxadiazole-3-methanamine | CC(N)(C1=NOC(=N1)C)C | C6H11N3O
product | 6-(3-Chloro-phenyl)-5-cyclopentyl-pyridine-2-carboxylic acid [1-methyl-1-(5-methyl-[1,2,4]oxadiazol-3-yl)-ethyl]-amide | CC(C)(C1=NOC(=N1)C)NC(=O)C1=NC(=C(C=C1)C1CCCC1)C1=CC(=CC=C1)Cl | C23H25ClN4O2
